US06174884B1
6-(3,4-Methylenedioxy-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
20 mg (0.066 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide and 41 mg (0.210 mmol) of methyl 3,4-methylenedioxyphenylacetate are refluxed for 6 hours in 1.06 ml of a 0.5M ethanolic potassium tert-butoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 19 mg (64%) of a solid, Rf=0.20 (dichloromethane/methanol=15:1).

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide | 0.066 mmol, 20 mg | NC1=C(C=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C16H22N4O2
reactant | methyl 3,4-methylenedioxyphenylacetate | 0.210 mmol, 41 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | potassium tert-butoxide | 0.5M | CC(C)([O-])C.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3,4-Methylenedioxy-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 19 mg, 64% | C1OC=2C=C(CC=3NC(C4=C(N3)N(N=C4)C(CCCC4=CC=CC=C4)C(C)O)=O)C=CC2O1 | C25H26N4O4
